US09290468B2
Step 8: methyl 4-fluoro-5-((2-fluoro-4-iodophenyl)amino)benzo[d][1,2,3]thiadiazole-6-carboxylate
To a solution of methyl 4-fluoro-5-((2-fluorophenyl)amino)benzo[d][1,2,3]thiadiazole-6-carboxylate (1.53 g, 4.77 mmol) in DMF (20 mL) was added NIS (1.18 g, 5.24 mmol) followed by trifluoroacetic acid (0.5 mL). After stirring for 5 h at ambient temperature, the reaction was quenched by saturated NH4Cl (aq.). The solution was extracted with ethyl acetate (30 mL×3). The combined organic extracts were washed with water (30 mL) and brine (30 mL) successively, dried over Na2SO4 and concentrated in vacuo to give the desired product (yellow solid, 1.90 g, 89.1% yield). 1H NMR (400 MHz, CDCl3): δ 8.73 (s, 1H), 8.58 (d, 1H), 7.47 (m, 1H), 7.39 (m, 1H), 6.74 (m, 1H), 4.03 (s, 3H).

reactant | methyl 4-fluoro-5-((2-fluorophenyl)amino)benzo[d][1,2,3]thiadiazole-6-carboxylate | 4.77 mmol, 1.53 g | FC1=C(C(=CC2=C1N=NS2)C(=O)OC)NC2=C(C=CC=C2)F | C14H9F2N3O2S
reactant | NIS | 5.24 mmol, 1.18 g | C1CC(=O)N(C1=O)I | C4H4INO2
reactant | trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | methyl 4-fluoro-5-((2-fluoro-4-iodophenyl)amino)benzo[d][1,2,3]thiadiazole-6-carboxylate | 1.90 g, 89.1% yield | FC1=C(C(=CC2=C1N=NS2)C(=O)OC)NC2=C(C=C(C=C2)I)F | C14H8F2IN3O2S
